US08283354B2
Methyl 2-((R)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl)acetate (17.1 g, 90.9 mmol) was stirred in a 1:1 mixture of THF:1 M HCl (200 mL) for 1 h at room temperature. After addition of NaCl to nearly saturate the aqueous layer, the mixture was extracted with EtOAc, and the extracts were dried over Na2SO4 and concentrated to obtain (R)-3-(methoxycarbonyl)-2-hydroxypropanoic acid as an oil. 1H NMR (400 MHz, CDCl3) δ 4.58-4.55 (m, 1H), 3.75 (s, 3H), 2.98-2.84 (m, 2H).

reactant | Methyl 2-((R)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl)acetate | 90.9 mmol, 17.1 g | CC1(OC([C@H](O1)CC(=O)OC)=O)C | C8H12O5
reactant | HCl | 1 M, 200 mL | Cl | ClH
reactant | NaCl | [Na+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
product | (R)-3-(methoxycarbonyl)-2-hydroxypropanoic acid | COC(=O)C[C@H](C(=O)O)O | C5H8O5
